US06211199B1
58.2 Synthesis of 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine
Combine 1-(2-hydroxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (0.19 g, 0.5 mmol) and dimethylformamide (5 mL). Add potassium carbonate (82 mg, 0.6 mmol) and 1-bromo-3-carboethoxypropane (0.21 mL, 0.29 g, 1.5 mmol). Heat at 100° C. After 2.5 hours, cool to ambient temperature. After 18 hours, dilute the reaction mixture with ethyl acetate, extract with water, aqueous 1 M hydrochloric acid solution, and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia to give the title compound: Rf=0.28 (silica gel, 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | 1-(2-hydroxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 0.5 mmol, 0.19 g | OC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C20H21N5O3
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.6 mmol, 82 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-carboethoxypropane | 1.5 mmol, 0.21 mL, 0.29 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol dichloromethane | CO.ClCCl
product | 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | C(=O)(OCC)CCCOC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C26H31N5O5
